US06465467B1
Step 2: 2-(3-Bromophenoxy)ethyl 3-(1-Piperazinyl)-2-pyrazinyl Ether
Piperazine (1.29 g, 15.0 mmol) and K2CO3 (0.69 g, 5.0 mmol) were added to a solution of 2-(3-bromophenoxy)ethyl 3-chloro-2-pyrazinyl ether (1.65 g, 5.00 mmol) in acetonitrile (25 mL) at room temperature. The mixture was heated at reflux for 21 h, allowed to cool, concentrated and the residue was partitioned between water and EtOAc. The layers were separated and the organic phase was washed with water and brine, and dried over MgSO4. Purification by chromatography on silica gel (gradient: PhMe to PhMe/MeOH/Et3N, 8:1:1) gave 1.61 g (85%) of the title compound as a pale yellow oil that slowly solidified on standing: mp 62-63° C. Anal. (C16H19BrN4O2) C, H, N.

reactant | Piperazine | 15.0 mmol, 1.29 g | N1CCNCC1 | C4H10N2
reactant | K2CO3 | 5.0 mmol, 0.69 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-(3-bromophenoxy)ethyl 3-chloro-2-pyrazinyl ether | 5.00 mmol, 1.65 g | ClC=1C(=NC=CN1)OCCOC1=CC(=CC=C1)Br | C12H10BrClN2O2
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | 2-(3-Bromophenoxy)ethyl 3-(1-Piperazinyl)-2-pyrazinyl Ether | 1.61 g, 85% | N1(CCNCC1)C=1C(=NC=CN1)OCCOC1=CC(=CC=C1)Br | C16H19BrN4O2
